US08912186B2
By a procedure similar to that of example 1.4, starting from 4-chloro-1,2-phenylenediamine and 3-(3-chlorophenyl)glutaric anhydride, 4-(5-chloro-2-benzimidazolyl)-3-(3-chlorophenyl)butanoic acid•HCl was obtained as light greyish solid.

reactant | 4-chloro-1,2-phenylenediamine | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | 3-(3-chlorophenyl)glutaric anhydride | ClC=1C=C(C=CC1)C1CC(=O)OC(C1)=O | C11H9ClO3
product | 4-(5-chloro-2-benzimidazolyl)-3-(3-chlorophenyl)butanoic acid•HCl | ClC1=CC2=C(N=C(N2)CC(CC(=O)O)C2=CC(=CC=C2)Cl)C=C1.Cl | InChI=1S/C17H14Cl2N2O2.ClH/c18-12-3-1-2-10(6-12)11(8-17(22)23)7-16-20-14-5-4-13(19)9-15(14)21-16;/h1-6,9,11H,7-8H2,(H,20,21)(H,22,23);1H
